US07169810B2
3-{4-[(4-{[Anilino(methylimino)methyl]amino}phenethyl)oxy]phenyl}-2-ethoxypropanoic acid
3-{4-[(4-Aminophenethyl)oxy]phenyl}-2-ethoxypropanoic acid (20 mg, 0.061 mmol) and methyl N′-methyl-N-phenylcarbamimidothioate (11.5 mg, 0.064 mmol) were mixed in 0.3 ml DMF. Triethylamine (25.5 ml, 0.183 mmol) was added. The mixture was then cooled in an ice-bath and mercury (II)chloride (18 mg, 0.066 mmol) was added. After 30 minutes, the cooling bath was removed. The reaction mixture was stirred overnight. Water (1 ml) and ethyl acetate (0.5 ml) were added and then hydromatrix (ca. 0.5 g) was added. After a while, the mixture was filtered. The filtrate was evaporated to dryness. Chromatography of the residue on an ISOLUTE column (SI, 500 mg/3 ml) using ethyl acetate/heptane (10:90, then 25:75, and then 50:50) as eluant gave 5 mg, yield 18% of the desired product.

reactant | 3-{4-[(4-Aminophenethyl)oxy]phenyl}-2-ethoxypropanoic acid | 0.061 mmol, 20 mg | NC1=CC=C(CCOC2=CC=C(C=C2)CC(C(=O)O)OCC)C=C1 | C19H23NO4
reactant | methyl N′-methyl-N-phenylcarbamimidothioate | 0.064 mmol, 11.5 mg | CN=C(NC1=CC=CC=C1)SC | C9H12N2S
reactant | Triethylamine | 0.183 mmol, 25.5 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
catalyst | mercury (II)chloride | 0.066 mmol, 18 mg | [Hg](Cl)Cl
product | 3-{4-[(4-{[Anilino(methylimino)methyl]amino}phenethyl)oxy]phenyl}-2-ethoxypropanoic acid | 5 mg, yield 18% | N(C1=CC=CC=C1)C(=NC)NC1=CC=C(CCOC2=CC=C(C=C2)CC(C(=O)O)OCC)C=C1 | C27H31N3O4
